US09302991B2
<Step-2>: 2-(cyclobutanecarboxamido)-6-methyl-N-(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)isonicotinamide (Example-452, single enantiomer)
The title compound is prepared from 2-amino-6-methyl-N-(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)isonicotinamide (Step-1, single enantiomer) and cyclobutanecarbonyl chloride according to the procedure similar to that described in Step-2 of Example 8.

reactant | 2-amino-6-methyl-N-(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)isonicotinamide | NC=1C=C(C(=O)NC(C)C=2C=NC(=CC2)OCC(F)(F)F)C=C(N1)C | C16H17F3N4O2
reactant | cyclobutanecarbonyl chloride | C1(CCC1)C(=O)Cl | C5H7ClO
product | 2-(cyclobutanecarboxamido)-6-methyl-N-(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)isonicotinamide | C1(CCC1)C(=O)NC=1C=C(C(=O)NC(C)C=2C=NC(=CC2)OCC(F)(F)F)C=C(N1)C | C21H23F3N4O3
